US07737167B2
N-(Benzimidazol-2-yl)-2-indanylamine
The title compound was prepared from 2-chlorobenzimidazole and 2-aminoindane by Procedure A (15 min at 150° C.). The product was isolated by preparative LCMS to give the title compound as the free base (white solid, mp 246-249° C.). MS(ES+) m/z 250 ([M+1]+, 100). 1NMR (DMSO-d6) δ 2.91 (dd, 2H), 3.29 (dd, 2H), 4.35 (m, 1H), 6.80-6.92 (m, 3H), 7.10-7.17 (m, 4H), 7.22-7.25 (m, 2H), 10.60 (s, 1H).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 2-aminoindane | NC1CC2=CC=CC=C2C1 | C9H11N
product | N-(Benzimidazol-2-yl)-2-indanylamine | N1=C(NC2=C1C=CC=C2)NC2CC1=CC=CC=C1C2 | C16H15N3
